US05952386
To a solution of 0.21 g of 3,5-dichloro-4-(3-aminopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene and 0.07 g of triethylamine dissolved in 5 ml of dichloromethane was added dropwise a solution of 0.15 g of 4-trifluoromethylbenzoyl chloride dissolved in 5 ml of dichloromethane, while stirring under ice cooling. After stirring at room temperature for 6 hours, the reaction mixture was washed with water and then concentrated to give a residue. The residue was subjected to silica gel chromatography, which afforded 0.25 g of 3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (79% yield), m.p., 93.5° C.

reactant | 3,5-dichloro-4-(3-aminopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.21 g | ClC=1C=C(C=C(C1OCCCN)Cl)OCC=C(Cl)Cl | C12H13Cl4NO2
reactant | triethylamine | 0.07 g | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylbenzoyl chloride | 0.15 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3,5-dichloro-4-(3-(4-trifluoromethylbenzamido)propyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 0.25 g, 79% yield | ClC=1C=C(C=C(C1OCCCNC(C1=CC=C(C=C1)C(F)(F)F)=O)Cl)OCC=C(Cl)Cl | C20H16Cl4F3NO3
